US06465489B1
A) 1-tert-Butoxycarbonyl-4-phenylpiperidine-4-carboxylic Acid
Place 100 g of 4-phenylpiperidine-4-carboxylic acid and p-toluenesulphonic acid in 800 ml of dioxane, add 150 ml of water and 109.7 g of K2CO3. Heat to 60° C. then add, drop by drop, 60.7 g of (Boc)20 in 100 ml of dioxane. Leave for 4 hours with stirring at 60° C. then heat under reflux for 1 hour. Evaporate to dryness, take up the solid formed in water, acidify to a pH of 3 by the addition of 2 N HCl, then add ether. Filter the crystals formed, wash them in water then in ether. Evaporate the etherified filtrate to dryness, take up the residue in ether and filter the crystals formed and add to those already obtained in order to dry them. 71 g of the desired compound are obtained.

reactant | 4-phenylpiperidine-4-carboxylic acid | 100 g | C1(=CC=CC=C1)C1(CCNCC1)C(=O)O | C12H15NO2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | K2CO3 | 109.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | dioxane | 800 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
product | 1-tert-Butoxycarbonyl-4-phenylpiperidine-4-carboxylic Acid | 71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
